US08809552B2
a) 6-(2,4-Dichloro-benzylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester
In analogy to the experimental procedure of example 8) 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester instead of 1-benzyl-1,6-diaza-spiro[3.3]heptane was converted using 2,4-dichloro-1-isocyanatomethyl-benzene instead of (3-isocyanato-propyl)-benzene into the title compound which was used directly in the next step without further purification.

reactant | 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CNC2 | C10H18N2O2
reactant | 2,4-dichloro-1-isocyanatomethyl-benzene | ClC1=C(C=CC(=C1)Cl)CN=C=O | C8H5Cl2NO
product | 6-(2,4-Dichloro-benzylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CN(C2)C(NCC2=C(C=C(C=C2)Cl)Cl)=O | C18H23Cl2N3O3
